US08912188B2
To a solution of methyl 4-chloro-2-hydroxybenzoate (21 g, 112.55 mmol) in acetone (200 mL) was added ethyl 2-bromoacetate (28.3 g, 169.46 mmol) and potassium carbonate (23.4 g, 169.31 mmol). After refluxing for 3 h, the solids were collected by filtration. The resulting mixture was concentrated under vacuum, dissolved in petroleum ether (300 mL) and filtered to give methyl 4-chloro-2-(2-ethoxy-2-oxoethoxy)benzoate as a red solid (26 g, 85%).

reactant | methyl 4-chloro-2-hydroxybenzoate | 112.55 mmol, 21 g | ClC1=CC(=C(C(=O)OC)C=C1)O | C8H7ClO3
reactant | ethyl 2-bromoacetate | 169.46 mmol, 28.3 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 169.31 mmol, 23.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | methyl 4-chloro-2-(2-ethoxy-2-oxoethoxy)benzoate | 26 g, 85% | ClC1=CC(=C(C(=O)OC)C=C1)OCC(=O)OCC | C12H13ClO5
